* C:\git\ltspice-projects\Juno filter - xm8 half volt octave.asc
R1 N017 N012 4.7k
R2 0 N017 560
C1 N026 0 270pF
R3 N013 N017 68k
R4 cutoff_cc N022 18k
R5 N018 N013 68k
R6 0 N018 560
C2 N027 0 270pF
R7 N014 N018 68k
R8 cutoff_cc N023 18k
R9 N019 N014 68k
R10 0 N019 560
C3 N028 0 270pF
R11 N015 N019 68k
R12 cutoff_cc N024 18k
R13 N020 N015 68k
R14 0 N020 560
C4 N029 0 270pF
R15 N016 N020 68k
R16 cutoff_cc N025 18k
R17 N021 N016 100k
R18 0 N021 1.5k
R19 N010 0 1.5k
XU1 NC_01 0 N017 N022 N026 15V -15V 0 NC_02 HALF13700
XU2 NC_03 0 N018 N023 N027 15V -15V 0 NC_04 HALF13700
XU5 NC_05 0 N019 N024 N028 15V -15V 0 NC_06 HALF13700
XU7 NC_07 N010 N021 resonance_cc N017 15V -15V 0 NC_08 HALF13700
XU9 0 0 N020 N025 N029 15V -15V 0 NC_09 HALF13700
Q2 resonance_cc 0 P001 0 PNP
R21 P001 N009 6.8k
XU11 NC_10 P002 N034 N031 N035 15V -15V 0 NC_11 HALF13700
R23 N034 0 560
R24 P002 0 560
R25 N034 N033 4.7k
R26 N035 0 220k
C6 P003 N016 1µ
R27 N032 P003 39k
R28 N033 N036 2.2MEG
R31 N033 N032 82k
R32 N010 N012 24k
R34 N004 N003 10k
R35 N005 N004 8k2
R36 0 N005 560
C7 N004 0 0.1µ
Q3 N006 0 N007 0 PNP
Q4 cutoff_cc N005 N007 0 PNP
R40 N007 N008 1.5k
R41 -15V N006 1.5MEG
C8 N006 N008 47p
R42 N001 -15V 390k
R43 N001 FREQ_CV 49.9k
R44 N002 N001 100k
V4 15V 0 15
V5 0 -15V 15
XU10 N006 0 N008 opamp Aol=100K GBW=10Meg
XU13 N001 0 N002 opamp Aol=100K GBW=10Meg
R20 N001 P004 100k
XU14 15V -15V P004 pot_lin Rtot=220K wiper=0.5
XU3 N013 N026 N013 opamp Aol=100K GBW=10Meg
XU4 N014 N027 N014 opamp Aol=100K GBW=10Meg
XU6 N015 N028 N015 opamp Aol=100K GBW=10Meg
XU8 N016 N029 N016 opamp Aol=100K GBW=10Meg
XU12 OUT N035 OUT opamp Aol=100K GBW=10Meg
XU15 N003 N002 N002 pot_lin Rtot=20K wiper=.404
Q1 N031 0 P005 0 PNP
R33 P005 N030 22k
R37 N030 VCA_CV 10k
C9 0 N030 100n
V6 FREQ_CV 0 5
V7 VCA_CV 0 5
V12 RESO_CV 0 0
V1 IN 0 SINE(0 5 50) AC 1
XU16 15V -15V N036 pot_lin Rtot=100K wiper=.41
R29 IN N011 100k
XU17 N011 0 N012 opamp Aol=100K GBW=10Meg
C5 N035 0 47p
R38 N011 N012 3.3k
XU18 RESO_CV N009 RESO_CV pot_lin Rtot=20K wiper=.5
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.lib LTC.lib
.lib lm13700.sub
* Resonance
;tran 0 0.1 0 0.1
.lib opamp.sub
* Juno 106 CV converter
* Opamp: 3.84V to -6.17V (0 to 5V cv) \ni.e. 10V output range
.step param acv 0V 5V 1V
* 21.92k gir 17.9mV
.ac oct 100 0.1 20000
* Weird, but i need a 20k pot here to get \napprox 22k total here.
* No change to voltage if\nR34 and R35 are merged\nand C7 removed.
* Must recheck these values, external to circuit
* 1V/Oct summing point.\n50k inp. resistor gives\n0.5V/oct
* TODO: 0-5V CV for output amp
* TODO: 5V Resonance control
* TODO: Set default non-tuned frequency\nto same as moog filter.
* Resonance
* 10k + 27k for 0-10V cv
* Summing point\nUse 100k resistor
* Audio:\nMax 10v p.p:\n   R26: 120k (or 82k + 50k pot), R27: 39k, R38: 3.3k\nMax 20v p.p:\n   R26: 220k (or 100k + 200k pot), R27: 56k, R38: 6.8k
.lib potentiometer_standard.lib
.backanno
.end
